US06518423B1
Methyl 4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)-2-methoxy-phenylacetate
3.41 g of methyl 4-(1-benzyl-4-hydroxypiperidin-4-yl)-2-methoxyphenylacetate was dissolved in 50 ml of toluene. After adding 3.5 g of p-toluenesulfonic acid monohydrate, the mixture was heated under reflux for 1 hour and 45 minutes. After adding water and triethylamine, the reaction mixture was extracted with dichloromethane and the organic layer was dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, 3.6 g of a pale yellow oily substance was obtained.

reactant | methyl 4-(1-benzyl-4-hydroxypiperidin-4-yl)-2-methoxyphenylacetate | 3.41 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=C(C=C1)CC(=O)OC)OC | C22H27NO4
reactant | p-toluenesulfonic acid monohydrate | 3.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 4-(1-benzyl-1,2,5,6-tetrahydropyrid-4-yl)-2-methoxy-phenylacetate | C(C1=CC=CC=C1)N1CC=C(CC1)C1=CC(=C(C=C1)CC(=O)OC)OC | C22H25NO3
